US08168794B2
To a solution of benzyl 7-(diethoxyphosphoryl)-3,7-diazabicyclo[4.1.0]heptane-3-carboxylate (1.0 equiv.) and triethyl amine hydrochloride (4 equiv.) in DCM (0.1M) was added BF3.OEt2 (2.0 equiv.) and the reaction was allowed to stir at room temperature for 2 h under a nitrogen atmosphere. The solution was then quenched with water and extracted with DCM. The crude product was purified via silica gel column chromatography (ISCO eluting with EtOAc and Hexanes 50% to 100% EtOAc) to yield benzyl 4-chloro-3-(diethoxyphosphorylamino)piperidine-1-carboxylate in 89% yield. LCMS (m/z): 405.1 (MH+), Rt=2.73 min.

reactant | benzyl 7-(diethoxyphosphoryl)-3,7-diazabicyclo[4.1.0]heptane-3-carboxylate | 1.0 equiv. | C(C)OP(=O)(OCC)N1C2CCN(CC12)C(=O)OCC1=CC=CC=C1 | C17H25N2O5P
reactant | triethyl amine hydrochloride | 4 equiv. | Cl.C(C)N(CC)CC
reactant | BF3.OEt2 | 2.0 equiv. | B(F)(F)F.CCOCC
solvent | DCM | 0.1M | C(Cl)Cl | CH2Cl2
product | benzyl 4-chloro-3-(diethoxyphosphorylamino)piperidine-1-carboxylate | 89% yield | ClC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)NP(=O)(OCC)OCC | C17H26ClN2O5P
